US06747023B1
2-(2-Methylpropyl)piperazine hydrochloride
Concentrated hydrochloric acid (3 ml) and palladium hydroxide (683 mg) were added to an ethanol solution (300 ml) of 1,4-dibenzyl-2-(2-methyl-1-propenyl)piperazine (5.2 g), followed by stirring for 2 hours under a hydrogen gas stream of 1 atmospheric pressure. The catalyst was removed by filtration and the solvent was distilled off under reduced pressure. The residue was recrystallized from methylene chloride—hexane, followed by washing with diethyl ether and drying under reduced pressure, whereby the title compound (2.95 g) was obtained as a brown solid.

reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | 1,4-dibenzyl-2-(2-methyl-1-propenyl)piperazine | 5.2 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)C=C(C)C | C22H28N2
catalyst | palladium hydroxide | 683 mg | [OH-].[Pd+2].[OH-]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-(2-Methylpropyl)piperazine hydrochloride | Cl.CC(CC1NCCNC1)C | InChI=1S/C8H18N2.ClH/c1-7(2)5-8-6-9-3-4-10-8;/h7-10H,3-6H2,1-2H3;1H
